US05476846
a) 1-Phenylcyclobutanemethanamine
A commercial suspension of LiAlH4 at 13% in a toluene-THF mixture, under nitrogen (0.595 mole; 175 ml), diluted with 270 ml of THF is maintained at 0° C. A mixture of 90 g (0.572 mole) of 1-phenylcyclobutanecarbonitrile and 800 ml of THF is added dropwise during 20 minutes. After the addition, the temperature is slowly allowed to rise before heating to reflux during 1 hour. After cooling at about 5° C., 150 ml water, 150 ml 10% NaOH and again 560 ml water are poured dropwise with care. The mixture is extracted with ethyl acetate after having saturated the aqueous phase with NaCl. The organic phase is extracted with a N HCl solution. This aqueous phase is made basic by means of 30% NaOH and is extracted with dichloromethane, which, after washing with water, drying over Na2SO4 and concentration gives a reddish liquid which is purified by distillation. There is obtained 68.65 g (yield=81.3%) of a colorless liquid. b.p.6 =84°-92° C.

reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | toluene THF | C1(=CC=CC=C1)C.C1CCOC1
reactant | 1-phenylcyclobutanecarbonitrile | 0.572 mole, 90 g | C1(=CC=CC=C1)C1(CCC1)C#N | C11H11N
reactant | NaOH | 150 ml | [OH-].[Na+]
solvent | THF | 270 ml | C1CCOC1 | C4H8O
solvent | THF | 800 ml | C1CCOC1 | C4H8O
solvent | water | 560 ml | O | H2O
solvent | water | 150 ml | O | H2O
product | 1-Phenylcyclobutanemethanamine | 68.65 g, yield=81.3% | C1(=CC=CC=C1)C1(CCC1)CN | C11H15N
